US05070086
Add a solution of 2-chloro-3-pyridinylcarbonyl chloride (4.4 g) in tetrahydrofuran (55 ml) to a stirred, cooled mixture of 2-(4-chlorophenyl)methylimidazoline (4.9 g), potassium tert.-butoxide (2.8 g) and tetrahydrofuran (200 ml). Use a bath of ice and acetone for cooling. Keep the reaction mixture in the bath for 15 minutes, and then allow it to warm to 20° C. over another 15 minutes. To the warmed mixture, add a second portion (2.8 g) of potassium tert.-butoxide; allow the reaction mixture to stir at 20° C. overnight. Evaporate solvent, partition the residue between chloroform and water, and dry the chloroform solution Use sodium sulfate as a drying agent. Filter the dried solution, evaporate the solvent, and crystallize the residue from acetonitrile to obtain 10-(4-chlorophenyl)-2,3-dihydro-imidazo[1,2-g]-[1,6]naphthyridin-5(1H)-one, mp 260°-262° C.

reactant | 2-chloro-3-pyridinylcarbonyl chloride | 4.4 g | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | 2-(4-chlorophenyl)methylimidazoline | 4.9 g | ClC1=CC=C(C=C1)CC=1NCCN1 | C10H11ClN2
reactant | potassium tert.-butoxide | 2.8 g | CC(C)([O-])C.[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | potassium tert.-butoxide | 2.8 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 10-(4-chlorophenyl)-2,3-dihydro-imidazo[1,2-g]-[1,6]naphthyridin-5(1H)-one | ClC1=CC=C(C=C1)C1=C2N(C(C=3C=CC=NC13)=O)CCN2 | C16H12ClN3O
